US05332858
Polymerization of 4-allyloxy benzoyl chloride
The procedure is the same as that described for isopropoxy benzoyl chloride. (2 g of the acid chloride was reacted at ambient temperature with 100 mg of SnCl4 for 2 hours and gave a red-brown solid with a dp of 4.4).

reactant | isopropoxy benzoyl chloride | C(C)(C)OC1=C(C(=O)Cl)C=CC=C1 | C10H11ClO2
reactant | SnCl4 | 100 mg | Cl[Sn](Cl)(Cl)Cl
product | 4-allyloxy benzoyl chloride | C(C=C)OC1=CC=C(C(=O)Cl)C=C1 | C10H9ClO2
